US05631373
N-(4'-Bromo-5'-methyl-2'-nitrophenyl)glycine sodium salt:
To a stirred solution of 2-bromo-5-fluoro-4-nitrotoluene (1.662 g, 7.102 mmol, as prepared above) in DMF (7.0 mL) at 70° C., was added, dropwise, a solution of sodium glycinate (0.690 g, 7.11 mmol, Aldrich, used as received) in water (7.0 mL). The resulting suspension was stirred overnight at 70° C. The suspension was cooled to room temperature and the red solid was filtered, washed with acetone, and dried under vacuum to give 0.932 g (45%) of the pure (1H NMR) title compound as a red powder; 1H NMR (DMSO-d6): δ2.306 (s, 3H), 3.452 (d, 2H, J=3.9 Hz), 6.874 (s, 1H), 8.125 (s, 1H), 8.779 (s, 1H).

reactant | 2-bromo-5-fluoro-4-nitrotoluene | 7.102 mmol, 1.662 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5BrFNO2
reactant | sodium glycinate | 7.11 mmol, 0.690 g | NCC(=O)[O-].[Na+]
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | water | 7.0 mL | O | H2O
product | N-(4'-Bromo-5'-methyl-2'-nitrophenyl)glycine sodium salt | [Na+].BrC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-] | InChI=1S/C9H9BrN2O4.Na/c1-5-2-7(11-4-9(13)14)8(12(15)16)3-6(5)10;/h2-3,11H,4H2,1H3,(H,13,14);/q;+1/p-1
